US06573337B1
A mixture of 2,3,6-tri-O-benzyl-β-D-galactopyranosyl azide (3.00 g, 6.31 mmol), propane-1,3-dithiol (3.40 g, 31.50 mmol), and triethylamine (3.50 g, 31.5 mmol) in MeOH (31 ml) was stirred under nitrogen at room temperature for 10 hours. The reaction mixture was evaporated and purified by chromatography using CHC3/EtOH 10:0.3 v/v to give 2,3,6-tri-O-benzyl-β-D-galactopyranosyl amine (2.66 g, 94%);

reactant | 2,3,6-tri-O-benzyl-β-D-galactopyranosyl azide | 6.31 mmol, 3.00 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)O)COCC1=CC=CC=C1)N=[N+]=[N-] | C27H29N3O5
reactant | propane-1,3-dithiol | 31.50 mmol, 3.40 g | C(CCS)S | C3H8S2
reactant | triethylamine | 31.5 mmol, 3.50 g | C(C)N(CC)CC | C6H15N
solvent | MeOH | 31 ml | CO | CH4O
product | 2,3,6-tri-O-benzyl-β-D-galactopyranosyl amine | 2.66 g, 94% | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)O)COCC1=CC=CC=C1)N | C27H31NO5
